US04788195
N-[2-(Diethylamino)ethyl]-4-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]benzamide
A 1.55 ml portion of diethylethylenediamine was added to a solution of 0.01 mole of 4-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]benzoic acid chloride in 50 ml of 1,2-dimethoxyethane. A 10 ml portion of triethylamine was added and the mixture was stirred for 2 hours. The solid was collected, washed with water and recrystallized from absolute ethanol, giving 1.22 g of the desired product, mp 148°-150° C.

reactant | diethylethylenediamine | C(C)NCCNCC | C6H16N2
reactant | 4-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]benzoic acid chloride | 0.01 mole | N1=CC(=CC=C1)C1=NC(=NC=C1)NC1=CC=C(C(=O)Cl)C=C1 | C16H11ClN4O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
product | N-[2-(Diethylamino)ethyl]-4-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]benzamide | 1.22 g | C(C)N(CCNC(C1=CC=C(C=C1)NC1=NC=CC(=N1)C=1C=NC=CC1)=O)CC | C22H26N6O
